US08138377B2
E. Synthesis of 5-p-tolyl-bicyclo[3.1.0]hexan-2-amine hydrochloride
To a solution of 5-p-tolyl-bicyclo[3.1.0]hexan-2-one (100 mg, 0.54 mmol) and anhydrous NaOAc (87.5 mg, 1.1 mmol) in anhydrous MeOH (10 mL) was added with stirring NH2OH.HCl (69.5 mg, 1 mmol). The resulting mixture was stirred at room temperature for 18 h. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue, dioxime [IS THIS CORRECT?] was reconstituted in anhydrous MeOH (5 ml) and anhydrous NiCl2 (194 mg, 1.5 mmol) was added with stirring. The reaction mixture was cooled to −30° C. and NaBH4 (567 mg, 15 mmol) was added in small portions. After completion of the addition the mixture was allowed to warm to room temperature and concentrated in vacuo. This was then basified with aqueous solution of NaOH and extracted with CH2Cl2 (3×). Organic phases were concentrated and purified by silica gel chromatography. The oily product was converted to HCl salt (62 mg, 51%).

reactant | 5-p-tolyl-bicyclo[3.1.0]hexan-2-one | 0.54 mmol, 100 mg | C1(=CC=C(C=C1)C12CCC(C2C1)=O)C | C13H14O
reactant | NaOAc | 1.1 mmol, 87.5 mg | CC(=O)[O-].[Na+]
reactant | NH2OH.HCl | 1 mmol, 69.5 mg | NO.Cl
reactant | NaBH4 | 15 mmol, 567 mg | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | NiCl2 | 1.5 mmol, 194 mg | Cl[Ni]Cl
product | 5-p-tolyl-bicyclo[3.1.0]hexan-2-amine hydrochloride | Cl.C1(=CC=C(C=C1)C12CCC(C2C1)N)C | InChI=1S/C13H17N.ClH/c1-9-2-4-10(5-3-9)13-7-6-12(14)11(13)8-13;/h2-5,11-12H,6-8,14H2,1H3;1H
